US09315462B2
Synthesis of 2-chloro-8-fluoroquinolin-6-yl acetate
To a solution of 8-fluoro-2-hydroxyquinolin-6-yl acetate (550 mg) in DMF (6 mL) was added POCl3 (0.6 mL). Then, the mixture was heated at 80° C. over a couple of hours. After aqueous work-up, the desired product, 2-chloro-8-fluoroquinolin-6-yl acetate (380 mg) was obtained by flash silica column chromatography.

reactant | 8-fluoro-2-hydroxyquinolin-6-yl acetate | 550 mg | C(C)(=O)OC=1C=C2C=CC(=NC2=C(C1)F)O | C11H8FNO3
reactant | POCl3 | 0.6 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-chloro-8-fluoroquinolin-6-yl acetate | 380 mg | C(C)(=O)OC=1C=C2C=CC(=NC2=C(C1)F)Cl | C11H7ClFNO2
